US08247430B2
6-amino-3H-quinazolin-4-one
Hydrogenation of 6-nitro-3H-quinazolin-4-one (2 g) in EtOH (200 mL) was catalyzed by Pd/c (10%, 200 mg) under a H2 balloon for 1 h. MeOH (200 mL) was added to the mixture. The suspension was filtered through a layer of Celite® and the filtrate was concentrated in vacuum to give the desired compound.

reactant | 6-nitro-3H-quinazolin-4-one | 2 g | [N+](=O)([O-])C=1C=C2C(NC=NC2=CC1)=O | C8H5N3O3
reactant | MeOH | 200 mL | CO | CH4O
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | 6-amino-3H-quinazolin-4-one | NC=1C=C2C(NC=NC2=CC1)=O | C8H7N3O
